US05639752
B. 3-(2-Dimethylaminoethyl)-5-(2-nitrophenylamino)-1H-indole
5-Amino-3-(2-dimethylaminoethyl)indole and 2-fluoronitrobenzene were used. Pyridine was used as base, bromobenzene was used as solvent, and the reaction was heated at reflux (156° C.) for 11 hours. Chromatography afforded the title compound (82%) as a dark red solid: mp, 116.0°-117.0° C.; 13C NMR (CD3OD) δ146.7, 136.7, 133.2, 131.0, 129.5, 127.2, 124.7, 121.3, 117.3, 117.2, 117.0, 114.1,113.4, 61.4, 45.4, 24.2; HRMS calculated for C18H20N4O2 324.1588, found 324.1564. Anal. calcd. for C18H20N4O2 1/3H2O: C, 65.44; H, 6.31; N, 16.96. Found: 65.44; H, 5.92; N, 16.69.

reactant | 5-Amino-3-(2-dimethylaminoethyl)indole | NC=1C=C2C(=CNC2=CC1)CCN(C)C | C12H17N3
reactant | 2-fluoronitrobenzene | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
product | 3-(2-Dimethylaminoethyl)-5-(2-nitrophenylamino)-1H-indole | 82% | CN(CCC1=CNC2=CC=C(C=C12)NC1=C(C=CC=C1)[N+](=O)[O-])C | C18H20N4O2
